US06511670B1
38.1 ml of a 1M solution of ethyl magnesium bromide in THF were added dropwise, at room temperature, to a solution of 4 grams of 1-octyne in 15 ml of anhydrous THF, under an inert atmosphere. With the addition complete, the mixture was maintained under stirring for 30 min at room temperature and then heated under reflux for 1 h, 30 min. The mixture was cooled to room temperature and then 287 mg of copper(I) chloride were added and the mixture was again heated under reflux for 1 hour. The mixture was then cooled to room temperature and 9.95 ml of 1,4-dichloro-2-butyne dissolved in 20 ml of anhydrous THF were rapidly added dropwise. The mixture was maintained under stirring for 30 min at room temperature, then it was heated under reflux for 2 h and then maintained under stirring for 15 h at room temperature before being heated under reflux for another 2 h. The reaction medium was then cooled to 4° C. and hydrolyzed with care with a saturated aqueous solution of NH4Cl. The medium was then extracted 3 times with diethyl ether and the combined organic phases were washed 3 times with water and then with a saturated aqueous solution of NaCl before being dried over Na2SO4, filtered and concentrated under vacuum in a rotary evaporator. The oily residue containing 1,4-dichloro-2-butyne in excess was purified by distillation under reduced pressure and 1-chloro-2,5-dodecadiyne was isolated in the form of a pale yellow oil (yield 36%).

reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | 1-octyne | 4 grams | C#CCCCCCC | C8H14
reactant | 1,4-dichloro-2-butyne | 9.95 ml | ClCC#CCCl | C4H4Cl2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | copper(I) chloride | 287 mg | [Cu]Cl
product | 1-chloro-2,5-dodecadiyne | ClCC#CCC#CCCCCCC | C12H17Cl
